US09212348B2
Synthesis of tert-butyl 2-(2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-yl)hydrazinecarboxylate
4.2 g of 2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-amine was dissolved in 30 mL of methylene chloride and mixed with 5.6 g (21 mmol) of separately prepared t-butyl 3-(trichloromethyl)-1,2-oxaziridine-2-carboxylate under cooling with ice. The reaction solution was stirred at room temperature for 30 minutes, washed with 10% aqueous citric acid, with saturated aqueous sodium hydrogen carbonate and with saturated aqueous sodium chloride successively and dried over anhydrous sodium sulfate, and methylene chloride was removed under reduced pressure. The resulting residue was purified by intermediate pressure silica gel column chromatography (silica gel 100 g, ethyl acetate:hexane) to give 1.38 g of the desired product as a white solid.

reactant | 2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-amine | 4.2 g | CC(CC1=CC=C(C=C1)C(F)(F)F)(C)N | C11H14F3N
reactant | t-butyl 3-(trichloromethyl)-1,2-oxaziridine-2-carboxylate | ClC(C1N(O1)C(=O)OC(C)(C)C)(Cl)Cl | C7H10Cl3NO3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-yl)hydrazinecarboxylate | 1.38 g | CC(CC1=CC=C(C=C1)C(F)(F)F)(C)NNC(=O)OC(C)(C)C | C16H23F3N2O2
